US07906521B2
2-anilino-4-methoxybenzoic acid (220 mg), methylamine hydrochloride (100 mg), triethylamine (0.31 mL), EDC (260 mg), and HOBt (210 mg) were combined in 4 mL DMF and stirred overnight at room temp. The reaction was diluted with EtOAc and washed with 10% citric acid (1×), water, and 10% sodium bicarbonate, then dried (Na2SO4) concentrated to give 0.23 g of 2-anilino-4-methoxy-N-methylbenzamide.

reactant | 2-anilino-4-methoxybenzoic acid | 220 mg | N(C1=CC=CC=C1)C1=C(C(=O)O)C=CC(=C1)OC | C14H13NO3
reactant | methylamine hydrochloride | 100 mg | Cl.CN
reactant | triethylamine | 0.31 mL | C(C)N(CC)CC | C6H15N
reactant | HOBt | 210 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EDC | 260 mg
product | 2-anilino-4-methoxy-N-methylbenzamide | 0.23 g | N(C1=CC=CC=C1)C1=C(C(=O)NC)C=CC(=C1)OC | C15H16N2O2
